US07465731B2
To a stirred solution of ethyl 5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}nicotinate (321 mg) in tetrahydrofuran (6 mL) was added lithium aluminumhydride (80.2 mg) portionwise in an ice bath and the resulting suspension was stirred at the same temperature for three hours. To this was added saturated aqueous potassium sodium (+)-tartrate tetrahydrate solution portionwise at the same temperature and the mixture was stirred at ambient temperature for one hour. The mixture was extracted with ethyl acetate and the aqueous phase was removed. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethylacetate-hexane 1:1 (v/v) to afford (5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)methanol (210 mg) as a colorless oil.

reactant | ethyl 5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}nicotinate | 321 mg | ClC=1C(=NC=C(C(=O)OCC)C1)N[C@H]1CN(CCC1)CC1CCCCC1 | C20H30ClN3O2
reactant | lithium | [Li] | Li
reactant | potassium sodium (+)-tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)methanol | 210 mg | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)CO | C18H28ClN3O
